US04608383
1-(4-Fluorophenoxy)-3-[2-(1,3,5-trimethylpyrimidine-2,4-dion-6-ylamino)-ethylamino]-propan-2-ol hydrogen fumarate
3.36 g. 4-Fluorophenyl glycidyl ether and 8.5 g. 4-(2-aminoethylamino)-1,3,5-trimethylpyrimidine-2,6-(1H,3H)-dione are dissolved in 10 ml. dimethylformamide and left to stand for 2 days at ambient temperature. The reaction mixture is then poured into 100 ml. water, extracted with methylene chloride, dried and evaporated. The viscous oil obtained is separated by column chromatography using silica gel and, as elution agent, methylene chloride-ammonia-saturated methanol (20:1 v/v). The product obtained by evaporation of the pure fractions is dissolved in 20 ml. ethyl acetate, whereafter 1.8 g. fumaric acid, dissolved in ethanol, is added thereto. After filtering off with suction, the crystalline product obtained is recrystallized from ethanol, with the addition of 0.9 g. fumaric acid and with the use of active charcoal. There are obtained 5.2 g. (52% of theory) of the desired product in the form of colorless crystals; m.p. 163°-167° C.

reactant | 4-Fluorophenyl glycidyl ether | C(C1CO1)OC1=CC=C(C=C1)F | C9H9FO2
reactant | 4-(2-aminoethylamino)-1,3,5-trimethylpyrimidine-2,6-(1H,3H)-dione | NCCNC=1N(C(N(C(C1C)=O)C)=O)C | C9H16N4O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | fumaric acid | C(\C=C\C(=O)O)(=O)O | C4H4O4
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-Fluorophenoxy)-3-[2-(1,3,5-trimethylpyrimidine-2,4-dion-6-ylamino)-ethylamino]-propan-2-ol hydrogen fumarate | C(\C=C\C(=O)OC(COC1=CC=C(C=C1)F)CNCCNC1=C(C(N(C(N1C)=O)C)=O)C)(=O)O | C22H27FN4O7
